US07820658B2
2-Amino-4-(5-formyl-2-methyl-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
2-Amino-4-chloro-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (7.62 g, 29.57 mmol) was added to 4-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (7.28 g, 29.57 mmol) followed by sodium hydrogen carbonate (7.45 g, 88.71 mmol). DMF (110 mL) was added followed by water (22 mL) and the suspension was degassed by evacuation—nitrogen purge (3 cycles), followed by bubbling nitrogen gas through the stirred reaction mixture for 5 minutes. Bis(triphenylphosphine)palladium (II) chloride (500 mg, 0.739 mmol) was added and reaction mixture was heated to 85 degrees C. (oil-bath temperature) for 18 hours. Reaction mixture was allowed to cool to room temperature and DMF removed in vacuo. The residue was partitioned between ethyl acetate (500 mL) and water (400 mL) and the mixture was stirred vigorously for 15 min before being filtered through a pad of celite to remove Pd solids. Filter cake was washed with ethyl acetate (2×50 mL) and combined filtrate phases were separated and the organic phase was washed with water (1×300 mL) then saturated sodium chloride solution (250 mL). Organic phase was dried over Na2SO4 and filtered, and filtrate solvents removed in vacuo to afford a brown oily solid which was triturated with ethyl acetate to afford product as a brown solid (5.42 g, 56%)

reactant | 2-Amino-4-chloro-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 29.57 mmol, 7.62 g | C(C)OC(=O)C1=CC2=C(N=C(N=C2Cl)N)S1 | C9H8ClN3O2S
reactant | 4-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 29.57 mmol, 7.28 g | CC1=C(C=C(C=O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO3
reactant | sodium hydrogen carbonate | 88.71 mmol, 7.45 g | C(O)([O-])=O.[Na+]
reactant | DMF | 110 mL | CN(C)C=O | C3H7NO
catalyst | Bis(triphenylphosphine)palladium (II) chloride | 0.739 mmol, 500 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 22 mL | O | H2O
product | 2-Amino-4-(5-formyl-2-methyl-phenyl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 5.42 g, 56% | C(C)OC(=O)C1=CC2=C(N=C(N=C2C2=C(C=CC(=C2)C=O)C)N)S1 | C17H15N3O3S
